2145-09-21 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2145-9-20**] 06:45 PM
 PICC LINE - START [**2145-9-20**] 07:27 PM
   placed outside hospital [**9-17**], one set BC done from this site
 BLOOD CULTURED - At [**2145-9-20**] 08:51 PM
   left hand peripheral stick
 SPUTUM CULTURE - At [**2145-9-20**] 08:51 PM
   Allergies:
   Penicillins
   Unknown;
   Ciprofloxacin
   Unknown;
   Lisinopril
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-9-21**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 90 (62 - 90) bpm
   BP: 108/37(55) {95/37(50) - 130/100(104)} mmHg
   RR: 14 (12 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                    707 mL
                                                                    158 mL
   PO:
             TF:
   IVF:
                                                                    707 mL
                                                                    158 mL
   Blood products:
   Total out:
                                                                    170 mL
                                                                    700 mL
   Urine:
                                                                    170 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   350 mL
   Balance:
                                                                    537 mL
                                                                   -541 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 520 (520 - 520) mL
   Vt (Spontaneous): 118 (118 - 118) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 57
   PIP: 32 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: 7.47/36/118/25/3
   Ve: 9 L/min
   PaO2 / FiO2: 295
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   58 K/uL
   9.2 g/dL
   138 mg/dL
   1.3 mg/dL
   25 mEq/L
   3.7 mEq/L
   55 mg/dL
   114 mEq/L
   148 mEq/L
   27.6 %
   6.0 K/uL
        [image002.jpg]
                            [**2145-9-20**]  06:50 PM
                            [**2145-9-20**]  09:59 PM
                            [**2145-9-21**]  03:28 AM
   WBC
   7.3
   6.0
   Hct
   30.3
   27.6
   Plt
   70
   58
   Cr
   1.4
   1.3
   TCO2
   27
   Glucose
   151
   138
   Other labs: PT / PTT / INR:18.1/38.1/1.6, ALT / AST:81/176, Alk Phos /
   T Bili:97/8.9, Differential-Neuts:71.5 %, Lymph:16.0 %, Mono:5.4 %,
   Eos:6.5 %, Fibrinogen:254 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:2.5
   g/dL, LDH:297 IU/L, Ca++:8.7 mg/dL, Mg++:2.6 mg/dL, PO4:2.9 mg/dL
   Fluid analysis / Other labs: UA:
   SpecGr 1.020
   Bili Lg
   Leuk Sm
   Nitr Neg
   Prot >300
   Ket Tr
   RBC >50
   WBC [**2-4**]
   Bact Mod
   Urine lytes
   Creat:170
   Na:18
   Iron: 146
   calTIBC: 166
   Hapto: <20
   Ferritn: 554
   TRF: 128
   Imaging: CXR:
   Microbiology: Cultures pending
   Assessment and Plan
   55 yo F with h/o diabetes, colon cancer in remission, cryptogenic
   cirrhosis, s/p long hospital course at [**Hospital3 4838**] now
   transferred for evaluation of persisent altered mental status.
   #.  Altered Mental Status: DDx Sedating medication overload in setting
   of liver dysfunction; hepatic encephalopathy; metastatic disease;
   encephalitis/meningitis; TTP given present pentad of fevers, AMS,
   thrombocytopenia, anemia with schistos; SBP although minimal ascites on
   last CT.
   -   consider LP
   -   consider para
   -   continue treatment of HE with Lactulose and Rifaximin at increased
   dose of 400.
   -   review OSH records including imaging.
   -   Continue Seroquel for now.
   -   Liver consult in AM
   -   f/u repeat pancultures
   #   Fevers: DDx includes infection (given improvement with Abx), TTP,
   central. All prior cultures negative including biliary.  Lactate 2.8 ->
   2.3
   -   Hold Abx for now
   -   repanculture
   -   consider ADAMST13 and plasmapheresis if high suspicion of TTP
   -   reassess need for biliary drain based on amount of output.
   #.  Respiratory Failure: On minimal vent support, reportedly passing
   daily spontenous breathing trials.
   #.  Cirrhosis: Biopsy proven, cryptogenic, considered due to fatty
   infiltration and chemo effects. No etoh history. No documentation of
   extent of workup.
   -   Obtain OSH liver records to confirm complete workup.
   -   Liver consult for possibility of transplant.
   -   Continue lactulose, rifaximin
   #.  Thrombocytopenia: Stable at range 60-120, today 58. Likely due to
   hypersplenism.
   - follow [**Hospital1 **]
   #.  Coagulopathy: INR 1.6. likely complication of cirrhosis vs DIC. No
   evidence of active bleeding.
   -   f/u FDP
   -   consider transfusion of FFP prn bleeding
   #.  Acute Renal Failure: Cr up to 1.4 -> 1.3 from baseline 0.7-1 s/p
   500ml IVF bolus. Concurrent hematuria, lactic acid elevation and
   hypotension to MAP 63 concerning for obstruction by clot vs prerenal
   hypoperfusion.
   -   Urine culture pending
   -   Replace foley and irrigate to assess for clot.
   #.  Hematuria: Suspect bladder source rather than intrarenal, possibly
   clot. Associated renal failure may be due to obstruction.
   -   UA and Culture
   -   Replace foley and irrigate
   #.  Anemia: Schistos on smear concerning for hemolysis. Hct at OSH 37
   to 29 over 3 weeks. MCV 89, not quite consistent with anemia of liver
   disease. Hematuria is new development today and should not be
   contributing.
   -   check remaining hemolysis and DIC labs - Bilirubin, Haptoglobin,
   Fibrinogen, FDP.
   -   Type and Cross active
   -   Continue to monitor daily and transfuse prn dropping Hct, active
   bleeding or hct <21. Increase frequency of monitoring if hematuria does
   not quickly resolve.
   #.  Diabetes: Known to be insulin dependent, on gtt at [**Hospital1 **].
   - Start q6h ISS and lantus, weight based.
   #. FEN: Tube feeds with nutrition assistance after OG tube placement
   confirmed, surgical consult re PEG in future. Lytes prn. No IVF
   #. PPX:
   -DVT ppx with SC Heparin
   -Bowel regimen Lactulose, Rifaximin
   -Pain management with Tylenol, consider fentanyl patch.
    #. ACCESS: Power PICC (will need to be replaced) and PIVs
   #. CODE STATUS: Confirmed full
    #. EMERGENCY CONTACT: [**Name (NI) 443**] [**Name (NI) **], [**Name (NI) 8807**] [**Name (NI) 2476**], [**Name2 (NI) 4511**],
   [**Female First Name (un) 8808**]
   #. DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2145-9-20**] 07:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-09-21 10:10:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Encephalopathy/Delirium
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No fevers overnight
   24 Hour Events:
 BLOOD CULTURED - At [**2145-9-20**] 06:45 PM
 PICC LINE - START [**2145-9-20**] 07:27 PM
   placed outside hospital [**9-17**], one set BC done from this site
 BLOOD CULTURED - At [**2145-9-20**] 08:51 PM
   left hand peripheral stick
 SPUTUM CULTURE - At [**2145-9-20**] 08:51 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Penicillins
   Unknown;
   Ciprofloxacin
   Unknown;
   Lisinopril
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2145-9-21**] 10:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 78 (62 - 99) bpm
   BP: 97/34(50) {95/34(50) - 130/100(104)} mmHg
   RR: 22 (12 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100 kg (admission): 100 kg
   Height: 63 Inch
             Total In:
                                                                    707 mL
                                                                    276 mL
   PO:
             TF:
   IVF:
                                                                    707 mL
                                                                    196 mL
   Blood products:
   Total out:
                                                                    170 mL
                                                                  1,535 mL
   Urine:
                                                                    170 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   850 mL
   Balance:
                                                                    537 mL
                                                                 -1,259 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 520 (520 - 520) mL
   Vt (Spontaneous): 118 (118 - 118) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 57
   PIP: 28 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: 7.47/36/118/25/3
   Ve: 9.4 L/min
   PaO2 / FiO2: 295
   Physical Examination
   General Appearance: No(t) No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed, paular rash on forehead decreased
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed, off
   propofol
   Labs / Radiology
   9.2 g/dL
   58 K/uL
   138 mg/dL
   1.3 mg/dL
   25 mEq/L
   3.7 mEq/L
   55 mg/dL
   114 mEq/L
   148 mEq/L
   27.6 %
   6.0 K/uL
        [image002.jpg]
                            [**2145-9-20**]  06:50 PM
                            [**2145-9-20**]  09:59 PM
                            [**2145-9-21**]  03:28 AM
   WBC
   7.3
   6.0
   Hct
   30.3
   27.6
   Plt
   70
   58
   Cr
   1.4
   1.3
   TCO2
   27
   Glucose
   151
   138
   Other labs: PT / PTT / INR:18.1/38.1/1.6, ALT / AST:81/176, Alk Phos /
   T Bili:97/8.9, Differential-Neuts:71.5 %, Lymph:16.0 %, Mono:5.4 %,
   Eos:6.5 %, Fibrinogen:254 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:2.5
   g/dL, LDH:297 IU/L, Ca++:8.7 mg/dL, Mg++:2.6 mg/dL, PO4:2.9 mg/dL
   Fluid analysis / Other labs: Direct bilirubin: 6.2
   Assessment and Plan
 ALTERATION IN NUTRITION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 COAGULOPATHY
   hx chronic thrombocytopenia
 DECUBITUS ULCER (PRESENT AT ADMISSION)
   3 areas stage 2
 DIABETES MELLITUS (DM), TYPE I
 ELECTROLYTE & FLUID DISORDER, OTHER
   55 yo woman with cirrhosis of undetermined etiology, resolving ARDS now
   trached, with persistent encephalopathy/delirium.
   1. Encephalopathy/Delirium: Will restart workup with head CT and will
   also get LP.  Labs/fever raise possibility of TTP/HUS - blood smear
   with schistos.  Sending ADAMTS13.  Suspicion remains low given chronic
   illness.  Continue lactulose.
   2. Cirrhosis: Consult hepatology.  Resend viral [**Last Name (LF) 8817**], [**First Name3 (LF) **].  RUQ
   ultrasound with Dopplers - will also be helpful for confirming drain
   placement given non-bilious appearance of output and persistent direct
   bilrubin
   3. Respiratory Failure: Doing wel on current settings, will switch back
   over to trach mask trials after radiologic studies complete today.
   4. Fevers: Holding antibiotics for now.  Recultured on arrival - send
   biliary drain fluid for culture.  Pull PICC line from OSH and replace
   with new line.  Wound care consult for decubius ulcers
   5. Renal Failure: Cr back down to 1.3.  Follow hematuria.  Fluid
   boluses prn and follow urine output.  Renal ultrasound (will get full
   abd ultrasound)
   6. Anemia/Throbocytopenia: Trend for now - could be secondary to liver
   disease.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2145-9-20**] 07:27 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2145-09-22 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -US could not visualize cholecystostomy tube; US suggested omental
   metastasis; doppler did not show any abnormalities in vessels
   -CT head: no acute process per prelim read; CT torso pending
   -cultures still pending; biliary drainage (-fluid from ?biliary drain
   showed 17 WBC, 10 RBCs) revealed nothing on gram stain, no WBC
   -coags and platelets stable;
   -Renal US: ?
   -CT head: no acute process per prelim read
   -given persistent fevers, mental status change, possible LP IR guided
   for tomorrow
   -liver recs:  continue lactulose and rifaximin; they suggest
   broad-spectrum abx (currently not on any)
   -coags and platelets stable;
   -peripheral smear ordered for tomorrow AM for hemoc review given mental
   status change, platelet drop, schistocytes on reg smear, renal failure,
   fevers.
   -DFA obtained from skin scrapings (lesions along right forehead in V1
   distribution)
   -OSH recs were obtained from Dr [**Last Name (STitle) **] and Dr [**Last Name (STitle) 8828**] (surgeon and
   HemOnc) and added to chart
   Allergies:
   Penicillins
   Unknown;
   Ciprofloxacin
   Unknown;
   Lisinopril
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-9-22**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.1
C (100.5
   HR: 90 (69 - 99) bpm
   BP: 117/33(54) {89/33(48) - 136/55(69)} mmHg
   RR: 17 (10 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100 kg (admission): 100 kg
   Height: 63 Inch
             Total In:
                                                                    705 mL
                                                                    542 mL
   PO:
             TF:
                                                                    125 mL
                                                                    200 mL
   IVF:
                                                                    385 mL
                                                                     81 mL
   Blood products:
   Total out:
                                                                  3,665 mL
                                                                  1,525 mL
   Urine:
                                                                    715 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
                                                                  1,950 mL
                                                                    500 mL
   Balance:
                                                                 -2,960 mL
                                                                   -983 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 520 (520 - 520) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Agitated, No Spon Resp
   PIP: 28 cmH2O
   Plateau: 18 cmH2O
   Compliance: 44.4 cmH2O/mL
   SpO2: 98%
   ABG: ///25/
   Ve: 8.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   47 K/uL
   9.5 g/dL
   160 mg/dL
   1.2 mg/dL
   25 mEq/L
   3.8 mEq/L
   54 mg/dL
   118 mEq/L
   150 mEq/L
   28.5 %
   7.4 K/uL
        [image002.jpg]
                            [**2145-9-20**]  06:50 PM
                            [**2145-9-20**]  09:59 PM
                            [**2145-9-21**]  03:28 AM
                            [**2145-9-21**]  03:03 PM
                            [**2145-9-22**]  02:16 AM
   WBC
   7.3
   6.0
   7.1
   7.4
   Hct
   30.3
   27.6
   28.2
   28.5
   Plt
   70
   58
   55
   47
   Cr
   1.4
   1.3
   1.2
   1.2
   TCO2
   27
   Glucose
   151
   138
   107
   160
   Other labs: PT / PTT / INR:18.4/47.5/1.7, ALT / AST:89/183, Alk Phos /
   T Bili:104/10.7, Differential-Neuts:71.5 %, Lymph:16.0 %, Mono:5.4 %,
   Eos:6.5 %, Fibrinogen:254 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:2.5
   g/dL, LDH:297 IU/L, Ca++:9.1 mg/dL, Mg++:2.6 mg/dL, PO4:3.0 mg/dL
   Imaging: CT head:
   1. No acute intracranial process.
   2. Paranasal sinus disease as above.
   Microbiology: cultures pending
   Assessment and Plan
   Assessment and Plan
   55 yo F with h/o diabetes, colon cancer in remission, cryptogenic
   cirrhosis, s/p long hospital course at [**Hospital3 4838**] now
   transferred for evaluation of persistant altered mental status.
   #.  Altered Mental Status: Differential: hepatic encephalopathy versus
   metastatic disease vs meningitis/encephalitis vs TTP vs delirium of
   underlying infection vs acute vascular event.  Most likely is hepatic
   encephalopathy given recent deterioration of hepatic function versus
   metastasis as per report appears to have recent omental metastasis.
   -For possibility of hepatic encephalopathy: Continue lactulose and
   rifaximin
   -For possibility of mening/encephalitis: LP today (ordered already
   under fluoroscopy given body habitus)
   -For possibility of TTP: heme consult to review smear given falling
   platelets, slowly rising coags, t-bili, schistos on smear, fevers, MS
   changes, renal failure.
   -MRI for evaluation of acute vasc event vs metastasis
   -Review OSH obtained from colorectal surgeon and from outpatient
   Hematologist-oncologist
   .
   #   Fevers: No leukocytosis.  Suspect infectious etiology: UTI given
   +UA versus sinusitis (per CT read) versus bacteremia vs biliary
   disease.  SBP less likely given minimal ascites and PNA less likely
   given absense of consolidation/infilatrate on CXR.
   -   Hold Abx for now
   -   repancultured yesterday; follow cultures
   -   fluid from biliary drain does not show any white cells, and gram
   stain negative; pending abdominal CT read, would pull biliary tube
   -   follow up abdominal CT read
   .
   #.  Respiratory Failure: On trach w/ FiO2 of 40% and PEEP of 5; barrier
   to extubation is mental status.
   -As long as mental status remains poor, would continue protected airway
   .
   #.  Cirrhosis: Biopsy proven, cryptogenic, considered due to fatty
   infiltration and chemo effects. No etoh history. No documentation of
   extent of workup.
   - Viral and autoimmune serologies
   - Liver recs for possibility of transplant.
   - Continue lactulose, rifaximin
   #.  Thrombocytopenia: Slight fall from 55 -> 47, has been relatively
   stable between 50 and 100.  Differential is portal HTN/hypersplenism
   related destruction versus consumption from possibility of TTP.
   - follow daily
   -F/u heme evaluation of smear
   #.  Coagulopathy: INR 1.6. likely complication of cirrhosis vs DIC. No
   evidence of active bleeding.
   -f/u FDP
   -follow heme evaluation of smear
   #.  Acute Renal Failure: Cr stable at 1.2, down from 1.4.  Likely ATN
   from sustained hypotension, resolving.
   -Renal u/s
   -Continue to trend creatinines
   -Avoid nephrotoxic agents, hypoperfusion
   #.  Sacral decub ulcers
   -Wound consult
   #.  Diabetes: On ISS + lantus: sugars controlled from 100 - 200.
   #. FEN: Tube feeds with nutrition assistance, surgical consult re PEG
   in future. Lytes prn. No IVF
   #. PPX:
   -   DVT ppx with SC Heparin
   -   Bowel regimen Lactulose, Rifaximin
   -   Pain management with Tylenol, consider fentanyl patch.
    #. ACCESS: Power PICC (will need to be replaced) and PIVs
   #. CODE STATUS: Confirmed full
    #. EMERGENCY CONTACT: [**Name (NI) 443**] [**Name (NI) **], [**Name (NI) 8807**] [**Name (NI) 2476**], [**Name2 (NI) 4511**],
   [**Female First Name (un) 8808**]
   #. DISPOSITION: ICU
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2145-9-21**] 06:15 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2145-9-20**] 07:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-09-22 09:03:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Encephalopathy/delirium
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   fevers overnight to 101.4.  no improvement in mental status
   24 Hour Events:
 ULTRASOUND - At [**2145-9-21**] 01:00 PM - suggestion of omental
   metastasis but CT abdomen pending
 SPUTUM CULTURE - At [**2145-9-21**] 05:22 PM
 BLOOD CULTURED - At [**2145-9-21**] 06:50 PM
   2 sets sent (VP and PICC)
 FEVER - 101.4
F - [**2145-9-22**] 01:00 AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Penicillins
   Unknown;
   Ciprofloxacin
   Unknown;
   Lisinopril
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 7 mcg/Kg/min
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: [**12-4**] Minimal
   Flowsheet Data as of  [**2145-9-22**] 09:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.2
C (100.8
   HR: 99 (69 - 99) bpm
   BP: 135/59(62) {89/33(48) - 136/84(87)} mmHg
   RR: 18 (10 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100 kg (admission): 100 kg
   Height: 63 Inch
             Total In:
                                                                    705 mL
                                                                    871 mL
   PO:
             TF:
                                                                    125 mL
                                                                    297 mL
   IVF:
                                                                    385 mL
                                                                    114 mL
   Blood products:
   Total out:
                                                                  3,665 mL
                                                                  1,985 mL
   Urine:
                                                                    715 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
                                                                  1,950 mL
                                                                    900 mL
   Balance:
                                                                 -2,960 mL
                                                                 -1,114 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 520 (520 - 520) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Agitated, No Spon Resp
   PIP: 29 cmH2O
   Plateau: 18 cmH2O
   Compliance: 44.4 cmH2O/mL
   SpO2: 97%
   ABG: ///25/
   Ve: 10 L/min
   Physical Examination
   General Appearance: No(t) No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   47 K/uL
   160 mg/dL
   1.2 mg/dL
   25 mEq/L
   3.8 mEq/L
   54 mg/dL
   118 mEq/L
   150 mEq/L
   28.5 %
   7.4 K/uL
        [image002.jpg]
                            [**2145-9-20**]  06:50 PM
                            [**2145-9-20**]  09:59 PM
                            [**2145-9-21**]  03:28 AM
                            [**2145-9-21**]  03:03 PM
                            [**2145-9-22**]  02:16 AM
   WBC
   7.3
   6.0
   7.1
   7.4
   Hct
   30.3
   27.6
   28.2
   28.5
   Plt
   70
   58
   55
   47
   Cr
   1.4
   1.3
   1.2
   1.2
   TCO2
   27
   Glucose
   151
   138
   107
   160
   Other labs: PT / PTT / INR:18.4/47.5/1.7, ALT / AST:89/183, Alk Phos /
   T Bili:104/10.7, Differential-Neuts:71.5 %, Lymph:16.0 %, Mono:5.4 %,
   Eos:6.5 %, Fibrinogen:254 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:2.5
   g/dL, LDH:297 IU/L, Ca++:9.1 mg/dL, Mg++:2.6 mg/dL, PO4:3.0 mg/dL
   Imaging: CT head: no acute process, ?sinusitis
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERATION IN NUTRITION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 COAGULOPATHY
   hx chronic thrombocytopenia
 DECUBITUS ULCER (PRESENT AT ADMISSION)
   3 areas stage 2
 DIABETES MELLITUS (DM), TYPE I
 ELECTROLYTE & FLUID DISORDER, OTHER
   55 yo woman with cirrhosis of undetermined etiology, resolving ARDS now
   trached, with persistent encephalopathy/delirium.
   1. Encephalopathy/Delirium: Head CT not revelaing for etiology.  LP
   today - may be difficult given habiltus.  Given fevers,
   throbocytopenia, anemia, MS changes - have asked heme to review blood
   smear.  Suspicion low given chronic illness.  Will get head MRI.
   Continue lactulose and rifaxamin.
   2. Cirrhosis: Hepatology following.  Awaiting results of first round of
   studies.  The status of her colon CA remains unclear as well - team
   will contact [**Name (NI) **] oncologist to review, particularly given
   suggestion of omental mets
   3. Respiratory Failure: Cont current vent settings.  Can try trach mask
   trials given that she was tolerating at OSH
   4. Fevers: Fever spike overnight - will continue to hold antibiotics
   and follow overnight cultures.
   5. Renal Failure: Cr trending down slowly, continue to follow.  Cont
   fH20 --> increase to 200cc q6
   6. Anemia/Throbocytopenia: Platelets dropping.  Check HIT.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2145-9-21**] 06:15 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2145-9-20**] 07:27 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2145-09-23 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 LUMBAR PUNCTURE - At [**2145-9-22**] 01:04 PM
   in IR
 PAN CULTURE - At [**2145-9-22**] 08:17 PM
   T 101.3
 MAGNETIC RESONANCE IMAGING - At [**2145-9-23**] 02:19 AM
   Head w/ contrast
 FEVER - 101.7
F - [**2145-9-22**] 10:00 AM
   - LP by IR with 1U platelets and 1U FFP prior to procedure
   - MRI head
   - liver recs: B a sed on oncoloyg records from OSH she has metastases
   to [**2-3**] regional nodes and mesenteric deposits in the ileal serosal
   implants.  h/o colon ca in w/in 5 years also excludes her from
   transplant.  re broad spectrum abx.
   - heme onc c/s: no schistocytes
   - CT abd: Percutaneous cholecystostomy tube adjacent to a collapsed
   gallbladder. It is unclear whether the tip is barely within the
   collapsed gallbladder or just outside. Rec evaluation with tube
   cholangiogram under fluoroscopy.  No evidence of omental mass or
   thickening in the upper abdomen.  Splenomegaly.
   - Fluoro: needs to be done to confirm placement of gallbladder drainage
   tube
   - PM lytes, Na improved to 148, Cr to 1.0
   - GI would like to update the family tomorrow
   - Cultures: VZV, HSV negative. Peritoneal fluid, LP fluid, Blood
   cultures ngtd.
   - [**Doctor First Name 3**]: PEG contraindicated in Child's Class C with ascites.  Decline
   to place PEG.
   Allergies:
   Penicillins
   Unknown;
   Ciprofloxacin
   Unknown;
   Lisinopril
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2145-9-23**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-9-23**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.9
C (100.3
   HR: 62 (61 - 99) bpm
   BP: 106/34(51) {83/26(40) - 135/59(70)} mmHg
   RR: 16 (16 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100 kg (admission): 100 kg
   Height: 63 Inch
             Total In:
                                                                  4,447 mL
                                                                    431 mL
   PO:
             TF:
                                                                    523 mL
                                                                    120 mL
   IVF:
                                                                  2,582 mL
                                                                    251 mL
   Blood products:
                                                                    402 mL
   Total out:
                                                                  3,750 mL
                                                                    370 mL
   Urine:
                                                                    940 mL
                                                                    170 mL
   NG:
                                                                     10 mL
   Stool:
                                                                    800 mL
   Drains:
                                                                  1,300 mL
                                                                    200 mL
   Balance:
                                                                    697 mL
                                                                     61 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (520 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 30 cmH2O
   Plateau: 22 cmH2O
   Compliance: 34.4 cmH2O/mL
   SpO2: 96%
   ABG: ///24/
   Ve: 7.4 L/min
   Physical Examination
   Cardiovascular: Gen: NAD, intubated, sedated
   Lungs: clear anteriorly
   CV: RRR, Nl S1 and S2
   Abd: soft, ND, NT
   Ext: 1+ peripheral edema
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   71 K/uL
   8.9 g/dL
   121 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.5 mEq/L
   47 mg/dL
   116 mEq/L
   148 mEq/L
   27.4 %
   9.5 K/uL
        [image002.jpg]
                            [**2145-9-20**]  06:50 PM
                            [**2145-9-20**]  09:59 PM
                            [**2145-9-21**]  03:28 AM
                            [**2145-9-21**]  03:03 PM
                            [**2145-9-22**]  02:16 AM
                            [**2145-9-22**]  02:59 PM
                            [**2145-9-22**]  10:44 PM
                            [**2145-9-23**]  03:50 AM
   WBC
   7.3
   6.0
   7.1
   7.4
   11.5
   9.5
   Hct
   30.3
   27.6
   28.2
   28.5
   26.1
   28.0
   27.4
   Plt
   70
   58
   55
   47
   71
   85
   71
   Cr
   1.4
   1.3
   1.2
   1.2
   1.0
   1.0
   TCO2
   27
   Glucose
   151
   138
   107
   160
   105
   121
   Other labs: PT / PTT / INR:18.2/38.1/1.6, ALT / AST:93/194, Alk Phos /
   T Bili:100/10.3, Differential-Neuts:71.5 %, Lymph:16.0 %, Mono:5.4 %,
   Eos:6.5 %, Fibrinogen:254 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:2.5
   g/dL, LDH:297 IU/L, Ca++:8.9 mg/dL, Mg++:2.5 mg/dL, PO4:3.1 mg/dL
   Imaging: MRI read pending
   no CXR
   Microbiology: sparse yeast in urine and sputum.  Otherwise no growth in
   blood, urine, sputum
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERATION IN NUTRITION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 COAGULOPATHY
   hx chronic thrombocytopenia
 DECUBITUS ULCER (PRESENT AT ADMISSION)
   3 areas stage 2
 DIABETES MELLITUS (DM), TYPE I
 ELECTROLYTE & FLUID DISORDER, OTHER
   55 yo F with h/o diabetes, colon cancer in remission, cryptogenic
   cirrhosis, s/p long hospital course at [**Hospital3 4838**] now
   transferred for evaluation of persistant altered mental status.
   #.  Altered Mental Status: Differential: hepatic encephalopathy versus
   metastatic disease vs meningitis/encephalitis vs delirium of underlying
   infection vs acute vascular event.  Most likely is hepatic
   encephalopathy given recent deterioration of hepatic function versus
   metastasis as per report appears to have recent omental metastasis.
   -For possibility of hepatic encephalopathy: Continue lactulose and
   rifaximin
   -For possibility of mening/encephalitis:LP bland, f/u on LP cx;
   platelets and coags prior to procedure
   -For possibility of TTP: no schistocytes observed on smear
   -MRI for evaluation of acute vasc event vs metastasis - final read
   pending
   -Review OSH obtained from colorectal surgeon and from outpatient
   Hematologist-oncologist
   #   Fevers: No leukocytosis.  Suspect infectious etiology: UTI given
   +UA versus sinusitis (per CT read) vs biliary disease.  SBP less likely
   given minimal ascites and PNA less likely given absense of
   consolidation/infilatrate on CXR.  She could have a central process
   causing her fevers, but she developed a WBC to 11.5 yesterday around
   the time of her fever.
   -   Hold Abx for now
   -   repancultured yesterday; follow cultures
   -   fluid from biliary drain does not show any white cells, and gram
   stain negative; keep drain in place for now
   -   CT abdomen shows no signs of infection/malignancy
   - f/u MRI read
   #  Respiratory Failure: On trach w/ FiO2 of 40% and PEEP of 5; barrier
   to extubation is mental status.
   - sedation was increased due to patient agitation
   - attempt to wean sedation today with goal of weaning
   #.  Cirrhosis: Biopsy proven, cryptogenic, considered due to fatty
   infiltration and chemo effects. No etoh history. No documentation of
   extent of workup.
   - Viral and autoimmune serologies pending
   - Liver recs for possibility of transplant- not a candidate
   - Continue lactulose, rifaximin
   #.  Thrombocytopenia: Slight fall from 55 -> 47, has been relatively
   stable between 50 and 100.  Differential is portal HTN/hypersplenism
   related destruction versus consumption from possibility of TTP.
   - follow daily, transfusion goal < 10
   #.  Coagulopathy: INR 1.6. likely complication of cirrhosis. No
   evidence of active bleeding.
   -follow heme evaluation of smear shows no schistocytes
   #.  Acute Renal Failure: Cr stable at 1.0, down from 1.4.  Likely ATN
   from sustained hypotension, resolving.
   - follow UOP, maintain SBP > 90, give IVF as needed to maintain UOP
   -Continue to trend creatinines
   -Avoid nephrotoxic agents, hypoperfusion
   #Hypernatremia - from volume resucitation and inability to take po
   - Continue giving NS for volume
   - uptitrate free water flushes today
   #.  Sacral decub ulcers
   -Wound consult
   #.  Diabetes: On ISS + lantus: sugars controlled from 100 - 200.
   #. FEN: Tube feeds with nutrition assistance, Lytes prn. No IVF.
   Surgery believes she is not a candidate for PEG placement given Childs
   Class C with ascities.  Continue with OGT for TF.
   #. PPX:
   -   DVT ppx with SC Heparin
   -   Bowel regimen Lactulose, Rifaximin
   -   Pain management with Tylenol, consider fentanyl patch.
   #. ACCESS: Power PICC (will need to be replaced) and PIVs
   #. CODE STATUS: Confirmed full
   #. EMERGENCY CONTACT: [**Name (NI) 443**] [**Name (NI) **], [**Name (NI) 8807**] [**Name (NI) 2476**], [**Name2 (NI) 4511**],
   [**Female First Name (un) 8808**]
   #. DISPOSITION: ICU
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2145-9-22**] 01:08 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2145-9-20**] 07:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-09-24 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - MRI: pending
   - Urine cx: negative
   - CSF viral serologies:
   - Liver recs: fluid cytology
   - ID recs: hold Abx until further w/u, high-dose acyclovir (10 mg/kg IV
   q 8 hours), serum cryptococcal antigen (and CSF
   cryptococcal antigen if possible), LCMV serologies, lyme
   serologies, babesia serologies, anaplasma serologies, blasto
   serologies, coccidio serologies, urine histoplasma
   antigen, and HIV testing, rec biopsy of face lesions  --> was IgG HSV2
   positive,
   - Fungal studies
   - Neuro recs: thyroid tests (including TPO antibody), EEG, CSF
   cytology, West [**Doctor First Name **], HSV PCR, EEE, ID recs
   - ECHO ordered
   -Surgery recs: recommend postpyloric NJ tube for enteral nutrition
   given technical difficulty of PEG tube placement in setting of primary
   medical problems
   Allergies:
   Penicillins
   Unknown;
   Ciprofloxacin
   Unknown;
   Lisinopril
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2145-9-23**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-9-24**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 102 (53 - 102) bpm
   BP: 187/69(93) {87/34(47) - 187/69(93)} mmHg
   RR: 22 (15 - 30) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 100 kg (admission): 100 kg
   Height: 63 Inch
             Total In:
                                                                  2,613 mL
                                                                    657 mL
   PO:
             TF:
                                                                    964 mL
                                                                    249 mL
   IVF:
                                                                    829 mL
                                                                     87 mL
   Blood products:
   Total out:
                                                                  1,860 mL
                                                                    810 mL
   Urine:
                                                                  1,060 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
                                                                    200 mL
   Balance:
                                                                    753 mL
                                                                   -153 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 756 (253 - 756) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   Plateau: 22 cmH2O
   SpO2: 99%
   ABG: 7.35/45/81.[**Numeric Identifier 8**]/25/0
   Ve: 13.3 L/min
   PaO2 / FiO2: 205
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   60 K/uL
   8.6 g/dL
   204 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.5 mEq/L
   36 mg/dL
   121 mEq/L
   152 mEq/L
   28.0 %
   9.0 K/uL
        [image002.jpg]
                            [**2145-9-20**]  06:50 PM
                            [**2145-9-20**]  09:59 PM
                            [**2145-9-21**]  03:28 AM
                            [**2145-9-21**]  03:03 PM
                            [**2145-9-22**]  02:16 AM
                            [**2145-9-22**]  02:59 PM
                            [**2145-9-22**]  10:44 PM
                            [**2145-9-23**]  03:50 AM
                            [**2145-9-23**]  09:06 PM
                            [**2145-9-24**]  02:40 AM
   WBC
   7.3
   6.0
   7.1
   7.4
   11.5
   9.5
   9.0
   Hct
   30.3
   27.6
   28.2
   28.5
   26.1
   28.0
   27.4
   28.0
   Plt
   70
   58
   55
   47
   71
   85
   71
   60
   Cr
   1.4
   1.3
   1.2
   1.2
   1.0
   1.0
   0.8
   TCO2
   27
   26
   Glucose
   151
   138
   107
   160
   105
   121
   204
   Other labs: PT / PTT / INR:18.2/40.7/1.6, ALT / AST:93/194, Alk Phos /
   T Bili:100/10.3, Differential-Neuts:71.5 %, Lymph:16.0 %, Mono:5.4 %,
   Eos:6.5 %, Fibrinogen:254 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:2.5
   g/dL, LDH:297 IU/L, Ca++:9.1 mg/dL, Mg++:2.4 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Assessment and Plan
   55 yo F with h/o diabetes, colon cancer in remission, cryptogenic
   cirrhosis, s/p long hospital course at [**Hospital3 4838**] now
   transferred for evaluation of persistant altered mental status.
   .
   #.  Altered Mental Status: Differential: hepatic encephalopathy versus
   meningitis/encephalitis vs delirium of underlying infection vs
   prolonged clearance of sedation vs metastasis vs acute vascular event.
   -For possibility of hepatic encephalopathy: Continue lactulose and
   rifaximin
   -For possibility of mening/encephalitis:LP bland, f/u on LP cx.  Given
   rash on face, +Ab to HSV2, ID recs starting acyclovir empirically until
   HSV cultures from CSF come back negative.
   -For possibility of TTP: no schistocytes observed on smear
   -MRI for evaluation of acute vasc event vs metastasis - read still
   pending
   -F/u all blood cultures, blood, urine, sputum cxs, and serologies
   .
   #  Respiratory Failure: On trach w/ FiO2 of 40% and PEEP of 5; requires
   trach for airway protection but was doing well w/ mask trials at OSH;
   attempt mask trial and attempt further weaning.  Currently on pressure
   support.
   .
   #.  Cirrhosis: Biopsy proven, cryptogenic, considered due to fatty
   infiltration and chemo effects. No etoh history. No documentation of
   extent of workup.
   - Viral and autoimmune serologies pending
   - Continue lactulose, rifaximin
   -Not a transplant candidate given metastatic colon cancer history w/ <
   5 yrs from colectomy and diagnosis
   .
   #.  Thrombocytopenia: stable between 50 and 100.  Also likely due to
   underlying cirrhosis
   - follow daily, transfusion goal < 10
   .
   #.  Coagulopathy: INR 1.6. likely complication of cirrhosis. No
   evidence of active bleeding.
   - follow daily coags
   .
   #Hypernatremia - from volume resucitation and inability to take po
   (free water deficit ~ 5 L)
   - Uptitrate free water from 200q6 to 250 q4
   #.  Sacral decub ulcers
   -Wound consult
   #.  Diabetes: On ISS + lantus: sugars controlled from 100 - 200.
   #. FEN: Tubefeeds, Lytes prn.
   #. PPX:
   -   DVT ppx with SC Heparin
   -   Bowel regimen Lactulose, Rifaximin
   -   Pain management with Tylenol, consider fentanyl patch.
   #. ACCESS: Power PICC and PIVs
   #. CODE STATUS: Confirmed full
   #. EMERGENCY CONTACT: [**Name (NI) 443**] [**Name (NI) **], [**Name (NI) 8807**] [**Name (NI) 2476**], [**Name2 (NI) 4511**],
   [**Female First Name (un) 8808**]
   #. DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2145-9-20**] 07:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-09-25 10:32:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Liver failure, altered mental status in setting of
   colon ca
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2145-9-24**] 09:05 AM
 EEG - At [**2145-9-24**] 02:00 PM
ID consult
Remains afebrile
agitation - given seroquel resulting in sedation
   History obtained from Medical records
   Allergies:
   Penicillins
   Unknown;
   Ciprofloxacin
   Unknown;
   Lisinopril
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2145-9-24**] 04:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Flowsheet Data as of  [**2145-9-25**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 80 (72 - 99) bpm
   BP: 102/28(46) {85/25(46) - 152/55(76)} mmHg
   RR: 29 (16 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100 kg (admission): 100 kg
   Height: 63 Inch
             Total In:
                                                                  1,881 mL
                                                                  1,830 mL
   PO:
             TF:
                                                                    249 mL
   IVF:
                                                                  1,242 mL
                                                                  1,740 mL
   Blood products:
   Total out:
                                                                  3,595 mL
                                                                    920 mL
   Urine:
                                                                    815 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
                                                                    900 mL
                                                                    700 mL
   Balance:
                                                                 -1,714 mL
                                                                    910 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 592 (323 - 592) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 152
   RSBI Deferred: No Spon Resp
   PIP: 16 cmH2O
   Plateau: 21 cmH2O
   SpO2: 94%
   ABG: 7.37/42/143/24/0
   Ve: 5.4 L/min
   PaO2 / FiO2: 358
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: erosion below trach site on neck
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Obese
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   59 K/uL
   206 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.3 mEq/L
   32 mg/dL
   117 mEq/L
   147 mEq/L
   26.6 %
   7.2 K/uL
        [image002.jpg]
                            [**2145-9-21**]  03:28 AM
                            [**2145-9-21**]  03:03 PM
                            [**2145-9-22**]  02:16 AM
                            [**2145-9-22**]  02:59 PM
                            [**2145-9-22**]  10:44 PM
                            [**2145-9-23**]  03:50 AM
                            [**2145-9-23**]  09:06 PM
                            [**2145-9-24**]  02:40 AM
                            [**2145-9-24**]  08:51 PM
                            [**2145-9-25**]  04:19 AM
   WBC
   6.0
   7.1
   7.4
   11.5
   9.5
   9.0
   7.2
   Hct
   27.6
   28.2
   28.5
   26.1
   28.0
   27.4
   28.0
   26.6
   Plt
   58
   55
   47
   71
   85
   71
   60
   59
   Cr
   1.3
   1.2
   1.2
   1.0
   1.0
   0.8
   0.8
   TCO2
   26
   25
   Glucose
   138
   107
   160
   105
   121
   204
   206
   Other labs: PT / PTT / INR:18.2/40.7/1.6, ALT / AST:93/194, Alk Phos /
   T Bili:100/10.3, Amylase / Lipase:71/83, Differential-Neuts:71.5 %,
   Lymph:16.0 %, Mono:5.4 %, Eos:6.5 %, Fibrinogen:254 mg/dL, Lactic
   Acid:2.3 mmol/L, Albumin:2.5 g/dL, LDH:297 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
RESPIRATORY FAILURE
   -cont require vent support
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   -remains afebrile
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -creat stable
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   -not clearly improving despite lactulose for sig period of time
   -LP and head imaging negative
   -suspect sig uncle[**Name (NI) **] metabolites/meds given liver disease
       try to minimize all sedating meds as able - challenge given
   agitation makes provision of care and any testing challenging
 COAGULOPATHY
   hx chronic thrombocytopenia
   HIT negative
 DECUBITUS ULCER (PRESENT AT ADMISSION)
   3 areas stage 2
 DIABETES MELLITUS (DM), TYPE I
   Please see resident note for remainder of detail.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2145-9-20**] 07:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2145-09-26 08:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - has a large whole beneath her trach palcement.  Called plastics who
   put in a few stitches and recommend [**Hospital1 **] dry packing
   - no new liver recs
   - ID: continue Acyclovir possible cutaenous HSV causing fevers.
   - UOP 25-35 cc/hr bolused 500c NS.
   Allergies:
   Penicillins
   Unknown;
   Ciprofloxacin
   Unknown;
   Lisinopril
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2145-9-24**] 04:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-9-26**] 08:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.5
C (99.5
   HR: 77 (75 - 100) bpm
   BP: 105/40(55) {102/28(46) - 143/77(90)} mmHg
   RR: 23 (17 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.7 kg (admission): 100 kg
   Height: 63 Inch
             Total In:
                                                                  3,391 mL
                                                                  1,199 mL
   PO:
             TF:
   IVF:
                                                                  3,301 mL
                                                                  1,019 mL
   Blood products:
   Total out:
                                                                  3,055 mL
                                                                  1,015 mL
   Urine:
                                                                    505 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
                                                                  1,650 mL
                                                                    800 mL
   Balance:
                                                                    336 mL
                                                                    184 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 516 (419 - 670) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 84
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: ///21/
   Ve: 8.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   57 K/uL
   9.0 g/dL
   197 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.5 mEq/L
   24 mg/dL
   117 mEq/L
   145 mEq/L
   27.8 %
   8.2 K/uL
        [image002.jpg]
                            [**2145-9-22**]  02:16 AM
                            [**2145-9-22**]  02:59 PM
                            [**2145-9-22**]  10:44 PM
                            [**2145-9-23**]  03:50 AM
                            [**2145-9-23**]  09:06 PM
                            [**2145-9-24**]  02:40 AM
                            [**2145-9-24**]  08:51 PM
                            [**2145-9-25**]  04:19 AM
                            [**2145-9-25**]  04:30 PM
                            [**2145-9-26**]  04:48 AM
   WBC
   7.4
   11.5
   9.5
   9.0
   7.2
   8.2
   Hct
   28.5
   26.1
   28.0
   27.4
   28.0
   26.6
   27.8
   Plt
   47
   71
   85
   71
   60
   59
   57
   Cr
   1.2
   1.0
   1.0
   0.8
   0.8
   0.7
   0.7
   TCO2
   26
   25
   Glucose
   160
   105
   121
   [**Telephone/Fax (3) 8921**]
   197
   Other labs: PT / PTT / INR:18.3/37.4/1.7, ALT / AST:93/194, Alk Phos /
   T Bili:100/10.3, Amylase / Lipase:71/83, Differential-Neuts:74.3 %,
   Lymph:16.8 %, Mono:3.3 %, Eos:5.3 %, Fibrinogen:254 mg/dL, Lactic
   Acid:1.9 mmol/L, Albumin:2.5 g/dL, LDH:297 IU/L, Ca++:9.0 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.4 mg/dL
   Imaging: CXR - acute cardiopulmonary process
   Microbiology: no new micro
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERATION IN NUTRITION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DECUBITUS ULCER (PRESENT AT ADMISSION)
   3 areas stage 2
 DIABETES MELLITUS (DM), TYPE I
 ELECTROLYTE & FLUID DISORDER, OTHER
   55 yo F with h/o diabetes, colon cancer in remission, cryptogenic
   cirrhosis, s/p long hospital course at [**Hospital3 4838**] now
   transferred for evaluation of persistant altered mental status.
   #.  Altered Mental Status: Differential: hepatic encephalopathy versus
   meningitis/encephalitis prolonged clearance of sedation vs metastasis
   vs acute vascular event.  She has showed some improvement over the last
   several days, eyes are more open, and appears more alert.
   -hepatic encephalopathy: Continue lactulose and rifaximin
   - mening/encephalitis:LP bland, f/u on LP cx.  Given rash on face, +Ab
   to HSV2, ID recs starting acyclovir empirically until HSV cultures from
   CSF come back negative.
   - eliminate all unecessary medications
   -F/u all blood cultures, blood, urine, sputum cxs, and serologies
   #Fevers - have resolved for 72 hrs now, now white count, no bandemia.
   #  Respiratory Failure: On trach w/ FiO2 of 40% , PSV 10/5/  Attempt
   d/c of ventilation and trial of vent mask.
   #.  Cirrhosis: Biopsy proven, cryptogenic, considered due to fatty
   infiltration and chemo effects. No etoh history. No documentation of
   extent of workup.
   - Viral and autoimmune serologies pending
   - Continue lactulose, rifaximin
   - Not a transplant candidate given metastatic colon cancer history w/ <
   5 yrs from colectomy and diagnosis
   #. Thrombocytopenia: stable between 50 and 100.  Also likely due to
   underlying cirrhosis
   - follow daily, transfusion goal < 10
   #.  Coagulopathy: INR 1.7. likely complication of cirrhosis. No
   evidence of active bleeding.
   - follow daily coags
   #Hypernatremia - from volume resucitation and inability to take po, Na
   145 today, deficit ~2L
   - Uptitrate free water from 200q6 to 250 q4
   - continue D5W at 75cc/hr X 2L
   #.  Sacral decub ulcers
   -Wound consult
   #.  Diabetes: On ISS + lantus: sugars controlled from 100 - 200.
   #. FEN: Tubefeeds, Lytes prn.
   #. PPX:
   -   DVT ppx with SC Heparin
   -   Bowel regimen Lactulose, Rifaximin
   -   Pain management with Tylenol, consider fentanyl patch.
   #. ACCESS: Power PICC (placed at OSH) and PIVs
   #. CODE STATUS: Confirmed full
   #. EMERGENCY CONTACT: [**Name (NI) 443**] [**Name (NI) **], [**Name (NI) 8807**] [**Name (NI) 2476**], [**Name2 (NI) 4511**],
   [**Female First Name (un) 8808**]
   #. DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2145-9-20**] 07:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-09-26 10:26:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Liver failure, altered mental status in setting of
   colon ca
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   - Plastics sutured defect below trach and recommended dry packing
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Ciprofloxacin
   Unknown;
   Lisinopril
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2145-9-24**] 04:00 PM
   Infusions:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-9-26**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.8
C (98.2
   HR: 96 (72 - 96) bpm
   BP: 119/37(55) {105/37(55) - 143/77(90)} mmHg
   RR: 25 (17 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.7 kg (admission): 100 kg
   Height: 63 Inch
             Total In:
                                                                  3,391 mL
                                                                  1,341 mL
   PO:
             TF:
   IVF:
                                                                  3,301 mL
                                                                  1,041 mL
   Blood products:
   Total out:
                                                                  3,055 mL
                                                                  1,050 mL
   Urine:
                                                                    505 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
                                                                  1,650 mL
                                                                    800 mL
   Balance:
                                                                    336 mL
                                                                    291 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 516 (419 - 670) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 84
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: ///21/
   Ve: 8.4 L/min
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Purposeful, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   57 K/uL
   197 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.5 mEq/L
   24 mg/dL
   117 mEq/L
   145 mEq/L
   27.8 %
   8.2 K/uL
        [image002.jpg]
                            [**2145-9-22**]  02:16 AM
                            [**2145-9-22**]  02:59 PM
                            [**2145-9-22**]  10:44 PM
                            [**2145-9-23**]  03:50 AM
                            [**2145-9-23**]  09:06 PM
                            [**2145-9-24**]  02:40 AM
                            [**2145-9-24**]  08:51 PM
                            [**2145-9-25**]  04:19 AM
                            [**2145-9-25**]  04:30 PM
                            [**2145-9-26**]  04:48 AM
   WBC
   7.4
   11.5
   9.5
   9.0
   7.2
   8.2
   Hct
   28.5
   26.1
   28.0
   27.4
   28.0
   26.6
   27.8
   Plt
   47
   71
   85
   71
   60
   59
   57
   Cr
   1.2
   1.0
   1.0
   0.8
   0.8
   0.7
   0.7
   TCO2
   26
   25
   Glucose
   160
   105
   121
   [**Telephone/Fax (3) 8921**]
   197
   Other labs: PT / PTT / INR:18.3/37.4/1.7, ALT / AST:93/194, Alk Phos /
   T Bili:100/10.3, Amylase / Lipase:71/83, Differential-Neuts:74.3 %,
   Lymph:16.8 %, Mono:3.3 %, Eos:5.3 %, Fibrinogen:254 mg/dL, Lactic
   Acid:1.9 mmol/L, Albumin:2.5 g/dL, LDH:297 IU/L, Ca++:9.0 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
RESPIRATORY FAILURE
   -on trach mask this morning - cont as tolerated

 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   -remains afebrile
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -creat stable
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   -improved today - tracking us as we entered the room but is not
   following commands
   -LP and head imaging negative
   -suspect significant uncle[**Name (NI) **] metabolites/meds given liver disease
       try to minimize all sedating meds as able - challenge given
   agitation makes provision of care and any testing challenging
 COAGULOPATHY
   -hx chronic thrombocytopenia
   -HIT negative
   -INR stable
 DECUBITUS ULCER (PRESENT AT ADMISSION)
   -3 areas stage 2

 DIABETES MELLITUS (DM), TYPE I
   -FSG/SSRI
   -titrate scale - couple of high values yesterday

 HYPERNATREMIA
   - improving
   -cont free water repletion
    Please see resident note for remainder of detail.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2145-9-20**] 07:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2145-09-27 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Attempted to pull perc chole drain, unsuccessful, spoke with gen [**Doctor First Name **]
   who recommended having IR remove drain tomorrow
   - liver: no new recs
   - ID: HSV 2 Ab positive, continue Acyclovir for 7 day course (now on
   day 4)
   - more alert, opening eyes to voice
   Allergies:
   Penicillins
   Unknown;
   Ciprofloxacin
   Unknown;
   Lisinopril
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2145-9-24**] 04:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-9-27**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98
   HR: 71 (71 - 103) bpm
   BP: 116/46(63) {92/31(46) - 134/95(99)} mmHg
   RR: 19 (19 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97 kg (admission): 100 kg
   Height: 63 Inch
             Total In:
                                                                  1,908 mL
                                                                    351 mL
   PO:
             TF:
   IVF:
                                                                  1,228 mL
                                                                     71 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  2,415 mL
                                                                  1,645 mL
   Urine:
                                                                    515 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
                                                                  1,900 mL
                                                                    900 mL
   Balance:
                                                                   -507 mL
                                                                 -1,294 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 340 (340 - 642) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 57
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.37/39/86/22/-2
   Ve: 6.9 L/min
   PaO2 / FiO2: 215
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   53 K/uL
   8.3 g/dL
   130 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.5 mEq/L
   22 mg/dL
   114 mEq/L
   145 mEq/L
   25.9 %
   7.4 K/uL
         [image002.jpg]
                            [**2145-9-23**]  03:50 AM
                            [**2145-9-23**]  09:06 PM
                            [**2145-9-24**]  02:40 AM
                            [**2145-9-24**]  08:51 PM
                            [**2145-9-25**]  04:19 AM
                            [**2145-9-25**]  04:30 PM
                            [**2145-9-26**]  04:48 AM
                            [**2145-9-26**]  03:44 PM
                            [**2145-9-26**]  04:07 PM
                            [**2145-9-27**]  04:39 AM
   WBC
   9.5
   9.0
   7.2
   8.2
   10.4
   7.4
   Hct
   27.4
   28.0
   26.6
   27.8
   29.2
   25.9
   Plt
   71
   60
   59
   57
   62
   53
   Cr
   1.0
   0.8
   0.8
   0.7
   0.7
   0.6
   0.6
   TCO2
   26
   25
   23
   Glucose
   121
   204
   206
   439
   197
   128
   130
   Other labs: PT / PTT / INR:18.2/40.4/1.7, ALT / AST:90/148, Alk Phos /
   T Bili:108/13.3, Amylase / Lipase:71/83, Differential-Neuts:74.3 %,
   Lymph:16.8 %, Mono:3.3 %, Eos:5.3 %, Fibrinogen:254 mg/dL, Lactic
   Acid:1.9 mmol/L, Albumin:2.5 g/dL, LDH:297 IU/L, Ca++:9.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR:
   Microbiology: Blood cx pending
   Lyme pending
   Urine negative
   CSF negative to date
   Legionella, crytococcal, c. diff, CMV negative
   Assessment and Plan
   55 yo F with h/o diabetes, colon cancer in remission, cryptogenic
   cirrhosis, s/p long hospital course at [**Hospital3 4838**] now
   transferred for evaluation of persistant altered mental status.
   #.  Altered Mental Status: DDx hepatic encephalopathy vs
   meningitis/encephalitis vs prolonged clearance of sedation vs
   metastasis.  She has showed some improvement over the last several
   days, eyes are more open, and appears more alert.  Given rash on face,
   +Ab to HSV2, on acyclovir day 4.
   - hepatic encephalopathy: Continue lactulose and rifaximin
   - mening/encephalitis:LP bland, f/u on LP cx.  ID recs continue 7d
   course of acyclovir HSV cultures from CSF come back negative.
   - F/u all blood cultures, blood, urine, sputum cxs, and serologies
   # Fevers - have resolved for 72 hrs now, now white count, no bandemia.
   #  Respiratory Failure: On trach w/ FiO2 of 40% , PSV 10/5/  Attempt
   d/c of ventilation and trial of vent mask.
   #. Cirrhosis: Biopsy proven, cryptogenic, considered due to fatty
   infiltration and chemo effects. No etoh history. No documentation of
   extent of workup.
   - Viral and autoimmune serologies pending
   - Continue lactulose, rifaximin
   - Not a transplant candidate given metastatic colon cancer history w/ <
   5 yrs from colectomy and diagnosis
   #. Thrombocytopenia: stable between 50 and 100.  Also likely due to
   underlying cirrhosis
   - follow daily, transfusion goal < 10
   #.  Coagulopathy: INR 1.7. likely complication of cirrhosis. No
   evidence of active bleeding.
   - follow daily coags
   #Hypernatremia - from volume resucitation and inability to take po, Na
   145 today, deficit ~2L
   - continue D5W at 75cc/hr X 2L
   #.  Sacral decub ulcers
   -Wound consult
   #.  Diabetes: On ISS + lantus: sugars controlled from 100 - 200.
   #. FEN: Tubefeeds held, Lytes prn.
   #. PPX:
   -   DVT ppx with SC Heparin
   -   Bowel regimen Lactulose, Rifaximin
   -   Pain management with Tylenol
   #. ACCESS: Power PICC (placed at OSH) and PIVs
   #. CODE STATUS: Confirmed full
   #. EMERGENCY CONTACT: [**Name (NI) 443**] [**Name (NI) **], [**Name (NI) 8807**] [**Name (NI) 2476**], [**Name2 (NI) 4511**],
   [**Female First Name (un) 8808**]
   #. DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2145-9-20**] 07:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-09-28 06:59:00 Physician Resident Progress Note
TITLE:
   TITLE:
   Chief Complaint: Altered mental status
   24 Hour Events:
   --Got Dobhoff and restarted TF's
   --Perc chole drain was pulled
   --Propofol was d/c'd when back from IR
   --Liver and ID rec continue ACV today is d5
   Allergies:
   Penicillins
   Unknown;
   Ciprofloxacin
   Unknown;
   Lisinopril
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-9-28**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 80 (72 - 97) bpm
   BP: 114/35(55) {103/35(52) - 132/58(71)} mmHg
   RR: 24 (15 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97 kg (admission): 100 kg
   Height: 63 Inch
             Total In:
                                                                    838 mL
                                                                  1,719 mL
   PO:
             TF:
                                                                     38 mL
                                                                    159 mL
   IVF:
                                                                    240 mL
                                                                  1,160 mL
   Blood products:
   Total out:
                                                                  3,350 mL
                                                                    155 mL
   Urine:
                                                                    450 mL
                                                                    155 mL
   NG:
   Stool:
   Drains:
                                                                  1,400 mL
   Balance:
                                                                 -2,512 mL
                                                                  1,564 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 356 (344 - 691) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 46
   PIP: 19 cmH2O
   SpO2: 96%
   ABG: ///21/
   Ve: 7.9 L/min
   Physical Examination
   Gen: Patient awakes to verbal stimuli, is able to follow basic commands
   to close eye, squeeze hands and move toes.
   HEENT: Sclerae extremely icteric, PERRL, mouth dry, trach tube in place
   and oozing slightly.
   CV: II/VI systolic murmur, RRR.
   Resp: clear to auscultation on anterior exam.
   Abd: Obese, soft, non-distended.
   Ext: Venous stasis changes on shins, no ankle edema, 2+ radial, DP and
   PT pulses.
   Labs / Radiology
   63 K/uL
   8.4 g/dL
   126 mg/dL
   0.7 mg/dL
   21 mEq/L
   4.2 mEq/L
   25 mg/dL
   117 mEq/L
   145 mEq/L
   26.5 %
   8.9 K/uL
        [image002.jpg]
                            [**2145-9-23**]  09:06 PM
                            [**2145-9-24**]  02:40 AM
                            [**2145-9-24**]  08:51 PM
                            [**2145-9-25**]  04:19 AM
                            [**2145-9-25**]  04:30 PM
                            [**2145-9-26**]  04:48 AM
                            [**2145-9-26**]  03:44 PM
                            [**2145-9-26**]  04:07 PM
                            [**2145-9-27**]  04:39 AM
                            [**2145-9-28**]  03:50 AM
   WBC
   9.0
   7.2
   8.2
   10.4
   7.4
   8.9
   Hct
   28.0
   26.6
   27.8
   29.2
   25.9
   26.5
   Plt
   60
   59
   57
   62
   53
   63
   Cr
   0.8
   0.8
   0.7
   0.7
   0.6
   0.6
   0.7
   TCO2
   26
   25
   23
   Glucose
   [**Telephone/Fax (3) 8940**]97
   128
   130
   126
   Other labs: PT / PTT / INR:18.3/35.6/1.7, ALT / AST:92/147, Alk Phos /
   T Bili:113/14.3, Amylase / Lipase:71/83, Differential-Neuts:74.3 %,
   Lymph:16.8 %, Mono:3.3 %, Eos:5.3 %, Fibrinogen:254 mg/dL, Lactic
   Acid:1.9 mmol/L, Albumin:2.6 g/dL, LDH:244 IU/L, Ca++:9.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERATION IN NUTRITION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DECUBITUS ULCER (PRESENT AT ADMISSION)
   3 areas stage 2
 DIABETES MELLITUS (DM), TYPE I
 ELECTROLYTE & FLUID DISORDER, OTHER
   Assessment and Plan
   55 yo F with h/o diabetes, colon cancer in remission, cryptogenic
   cirrhosis, s/p long hospital course at [**Hospital3 4838**] now
   transferred for evaluation of persistant altered mental status.
   #.  Altered Mental Status: Patient
s mental status has been improving.
   Likely multifactorial due to hepatic encephalopathy and prolonged
   clearance of sedation.  However, still considering
   meningitis/encephalitis vs metastasis/carcinomatous meningitis.
   However, no clear infectious cause has been found.
   - Given rash on face and positive serum antibody to HSV2, on acyclovir
   day 5 of 7.
   - possible role of poor nutritional status considering recent lap band,
   though folate and B12 normal.  Will start thiamine.
   - hepatic encephalopathy: Continue lactulose and rifaximin
   - mening/encephalitis: LP bland.  HSV PCR neg, EEE and West [**Doctor First Name **]
   negative.
   - All cultures negative to date.
   #. Cirrhosis: Continues to have active liver inflammation and rising
   bilirubin.  Perc chole drain pulled yesterday, but trend started
   before.  Unclear source of continued inflammation or acute change.
   Underlying process is biopsy proven, cryptogenic, considered due to
   fatty infiltration and chemo effects.
   - Hemolysis labs were positive, but her hematocrit has been stable.
   Haptoglobin level more likely due to decreased liver production.  Will
   continue to tren hematocrit.
   - Will talk to liver team about cause for worsening liver function.
   Maybe another biopsy would be helpful.
   - Hep B non-immune, Hep C neg, Hep A IgG +ve, IgM pending. [**Doctor First Name **] and
   antiTPO negative.
   - Continue lactulose, rifaximin
   - Not a transplant candidate given metastatic colon cancer history w/ <
   5 yrs from colectomy and diagnosis
   #  Respiratory Failure: On trach w/ FiO2 of 50% , PSV 10/5.  Yesterday
   she did well with trach mask for most of the day, and only went back on
   pressure support to go for a procedure.  Diuresis seems to have helped.
   - Continue diuresis with lasix boluses with goal I/O of -1 to 1.5L
   today.  We will check [**Hospital1 **] lytes.
   - Continue trach mask trials as much as possible.
   #.  Diabetes: On ISS + lantus: sugars controlled from 100 - 200.
   #. Thrombocytopenia: stable between 50 and 100.  Likely due to
   underlying cirrhosis
   - follow daily, transfusion goal < 10
   #.  Coagulopathy: Stable.  Likely complication of cirrhosis. S
   #Hypernatremia - from volume resucitation and inability to take po, Na
   stable at 145 today, deficit ~2L
   - received 1L free water bolus this morning.
   #.  Sacral decub ulcers
 has Stage II ulcer on right gluteal. Wound
   consult recommends wound care and flexiseal for stool.
   #. FEN:  Dobhoff placed by IR yesterday, now getting
   - Lytes prn.
   #. PPX:
   -   DVT ppx with SC Heparin
   -   Bowel regimen Lactulose, Rifaximin
   -   Pain management with Tylenol
   #. ACCESS: Power PICC (placed at OSH) and PIVs
   #. CODE STATUS: Confirmed full
   #. EMERGENCY CONTACT: [**Name (NI) 443**] [**Name (NI) **], [**Name (NI) 8807**] [**Name (NI) 2476**], [**Name2 (NI) 4511**],
   [**Female First Name (un) 8808**]
   #. DISPOSITION: ICU
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2145-9-27**] 10:05 PM 30 mL/hour
   Glycemic Control:  Lantus and ISS.
   Lines:
   PICC Line - [**2145-9-20**] 07:27 PM
   Prophylaxis:
   DVT: SC heparin.
   Stress ulcer: Wound care.
   VAP:  per protocol
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending plan for declining liver function.

2145-09-29 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - liver recs: liver decompensation is not acute, but rather a
   progression of underlying disease. Having had omental mets excludes her
   from transplant at any time.  Recommend palliative care consult prior
   to discharge.  [**First Name4 (NamePattern1) 1124**] [**Last Name (NamePattern1) 8959**] called, someone from her service will come
   in the AM.  Family (2 [**Last Name (NamePattern1) **], son-in-law, and husband) will be by
   tomorrow ~noon. Emailed liver attending (Dr. [**First Name (STitle) **].  Social work still
   needs to be contact[**Name (NI) **]).
   - peritoneal cytology from [**9-24**] shows atypical cells, cannot exclude
   malignancy.
   - Neurology signing off for now. Cytology from CSF was negative.  We
   can call them if viral studies are positive.
   - On trach mask all day without issues.
   - Started on Nadolol 40mg PO daily.
   - PM labs stable
   Allergies:
   Penicillins
   Unknown;
   Ciprofloxacin
   Unknown;
   Lisinopril
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2145-9-29**] 12:04 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-9-29**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.5
   HR: 94 (76 - 99) bpm
   BP: 151/63(85) {110/29(55) - 151/81(88)} mmHg
   RR: 22 (17 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97 kg (admission): 100 kg
   Height: 63 Inch
             Total In:
                                                                  2,784 mL
                                                                    435 mL
   PO:
             TF:
                                                                    718 mL
                                                                    300 mL
   IVF:
                                                                  1,447 mL
                                                                    135 mL
   Blood products:
   Total out:
                                                                  1,625 mL
                                                                    135 mL
   Urine:
                                                                    725 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,159 mL
                                                                    300 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   Opens eyes and smiles to command
   RRR, cta
   RUQ ttp, no rebound or guarding
   Diffuse peripheral edema
   Labs / Radiology
   81 K/uL
   9.3 g/dL
   187 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.6 mEq/L
   22 mg/dL
   115 mEq/L
   144 mEq/L
   29.4 %
   9.8 K/uL
        [image002.jpg]
                            [**2145-9-24**]  08:51 PM
                            [**2145-9-25**]  04:19 AM
                            [**2145-9-25**]  04:30 PM
                            [**2145-9-26**]  04:48 AM
                            [**2145-9-26**]  03:44 PM
                            [**2145-9-26**]  04:07 PM
                            [**2145-9-27**]  04:39 AM
                            [**2145-9-28**]  03:50 AM
                            [**2145-9-28**]  06:00 PM
                            [**2145-9-29**]  03:51 AM
   WBC
   7.2
   8.2
   10.4
   7.4
   8.9
   9.8
   Hct
   26.6
   27.8
   29.2
   25.9
   26.5
   29.4
   Plt
   59
   57
   62
   53
   63
   81
   Cr
   0.8
   0.7
   0.7
   0.6
   0.6
   0.7
   0.6
   0.6
   TCO2
   25
   23
   Glucose
   [**Telephone/Fax (3) 8960**]28
   130
   126
   176
   187
   Other labs: PT / PTT / INR:19.1/40.9/1.7, ALT / AST:95/148, Alk Phos /
   T Bili:142/14.6, Amylase / Lipase:71/83, Differential-Neuts:74.3 %,
   Lymph:16.8 %, Mono:3.3 %, Eos:5.3 %, Fibrinogen:254 mg/dL, Lactic
   Acid:1.9 mmol/L, Albumin:2.6 g/dL, LDH:244 IU/L, Ca++:9.2 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Fluid analysis / Other labs: Peritoneal cytology - atypical cells,
   cannot exclude malignancy
   Imaging: CXR
   Microbiology: All cultures negative to date.  One blood culture
   pending.
   Assessment and Plan
   55 yo F with h/o diabetes, colon cancer in remission, cryptogenic
   cirrhosis, s/p long hospital course at [**Hospital3 4838**] now
   transferred for evaluation of persistant altered mental status.
   #.  Altered Mental Status: Patient
s mental status has been improving.
   Likely multifactorial due to hepatic encephalopathy and prolonged
   clearance of sedation.  Unlikely meningitis/encephalitis given no clear
   infectious cause has been found.  CSF cytology negative making
   metastasis/carcinomatous meningitis unlikely. All cultures negative to
   date.
   - Given rash on face and positive serum antibody to HSV2, on acyclovir
   day 7 of 7?
   - possible role of poor nutritional status considering recent lap band,
   though folate and B12 normal, thiamine started
   - hepatic encephalopathy: Continue lactulose and rifaximin
   - Check urine benzos to eval if meds are contributing to mental status
   #. Cirrhosis: Continues to have active liver inflammation and rising
   bilirubin.  Perc chole drain pulled.  Per liver progression of
   underlying disease.  Underlying process is biopsy proven, cryptogenic,
   considered due to fatty infiltration and chemo effects. -Hep B
   non-immune, Hep C neg, Hep A IgG +ve, IgM pending. [**Doctor First Name **] and antiTPO
   negative.
   - Nadalol started
   - Continue lactulose, rifaximin
   - Not a transplant candidate given metastatic colon cancer history w/ <
   5 yrs from colectomy and diagnosis
   #. Respiratory Failure: Did well with trach mask for most of the day.
   Diuresis seems to have helped.
   - Continue trach mask trials as much as possible.
   #. Oliguria: UOP dropped to 30cc/hr.  Cr stable.  Clinically
   intravascularly dry but want to avoid excessive fluids as she has
   significant peripheral edema and want to avoid pulmonary congestion.
   - Albumin 50mg and eval UOP
   #. RUQ pain: Appeared to be in pain on physical exam.  At site of
   previous perc chole drain, could be related to trauma from pulling
   drain.  LFTs have been stable making worsening hepatitis or
   cholecystitis less likely, however will need imaging for further
   evaluation
   - RUQ
   #.  Diabetes: On ISS + lantus: sugars controlled from 100 - 200.
   #. Thrombocytopenia: stable between 50 and 100.  Likely due to
   underlying cirrhosis
   - follow daily, transfusion goal < 10
   #. Coagulopathy: Stable.  Likely complication of cirrhosis.
   -  follow daily
   #. Anemia - Hemolysis labs were positive, but her hematocrit has been
   stable.  Haptoglobin level more likely due to decreased liver
   production.
   - Trend hematocrit
   #.  Hypernatremia - from volume resucitation and inability to take po,
   Na stable at 145 today, deficit ~2L
   - received 1L free water bolus this morning.
   #.  Sacral decub ulcers
 has Stage II ulcer on right gluteal. Wound
   consult recommends wound care and flexiseal for stool.
   #. FEN:  Dobhoff placed by IR yesterday, now getting TF
   - Lytes prn.
   #. PPX:
   -   DVT ppx with SC Heparin
   -   Bowel regimen Lactulose, Rifaximin
   -   Pain management with Tylenol
   #. ACCESS: Power PICC (placed at OSH) and PIVs
   #. CODE STATUS: Confirmed full
   #. COMMUNICATION: Husband [**Name (NI) **], [**Name (NI) 8807**] [**Name (NI) 2476**], [**Last Name (LF) 4511**], [**First Name3 (LF) 8808**]
   - Family meeting with palliative care consult, [**First Name4 (NamePattern1) 1124**] [**Last Name (NamePattern1) 8959**] called,
   someone from her service will come in the AM.  Family (2 [**Last Name (NamePattern1) **],
   son-in-law, and husband) will be by tomorrow ~noon. Emailed liver
   attending (Dr. [**First Name (STitle) **].  Social work still needs to be contact[**Name (NI) **]).
   #. DISPOSITION: ICU
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2145-9-29**] 12:07 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2145-9-20**] 07:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-09-30 06:48:00 Physician Resident Progress Note
Chief Complaint: Altered mental status
   24 Hour Events:
   - Family meeting - discussed poor prognosis with liver, palliative care
   and ICU team, family will think about goals of care and next steps,
   likely hospice.  They will talk tonight, we will touch base tomorrow.
   - today is last day of Acyclovir
   - urine benzos negative
   - Given Albumin --> UOP same
   - RUQ u/s - thickened gallbladder wall, small amount of pericholecystic
   fluid, overall unchanged
   - Liver recs: continue current care, rec palliative care
   Allergies:
   Penicillins
   Unknown;
   Ciprofloxacin
   Unknown;
   Lisinopril
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2145-9-30**] 12:18 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-9-30**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.7
   HR: 84 (71 - 96) bpm
   BP: 116/45(61) {106/37(52) - 142/68(84)} mmHg
   RR: 23 (19 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93 kg (admission): 100 kg
   Height: 63 Inch
             Total In:
                                                                  2,248 mL
                                                                    739 mL
   PO:
             TF:
                                                                  1,248 mL
                                                                    415 mL
   IVF:
                                                                    420 mL
                                                                     34 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  1,460 mL
                                                                    140 mL
   Urine:
                                                                    660 mL
                                                                    140 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                    788 mL
                                                                    599 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Gen: Obese woman lying in bed in NAD, moving spontaneously
   HEENT: Sclerae icteric, PERRL, eyes moving in all directions
   spontaneously, face with skin breakdown, mouth dry.
   CV: III/VI harsh systolic murmur.
   Resp: Coarse central rhonchi, peripheral clear to auscultation
   anteriorly.
   Abd: Obese with flanks bulging.  Covering in place over sight of perc
   chole drain.  +BS, some grimacing with palpation of RUQ, otherwise NT.
   Non-distended throughout.
   Ext:  no edema, skin changes of venous stasis on shins, 2+ radial, DP
   and PT pulses.
   Neuro: Follows basic commands with all 4 extremities, cannot follow
   complex commands.  Responds to
hello
 and goodbye, does not answer
   other questions.
   Labs / Radiology
   80 K/uL
   9.5 g/dL
   235 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.8 mEq/L
   24 mg/dL
   114 mEq/L
   145 mEq/L
   28.9 %
   11.4 K/uL
        [image002.jpg]
                            [**2145-9-25**]  04:19 AM
                            [**2145-9-25**]  04:30 PM
                            [**2145-9-26**]  04:48 AM
                            [**2145-9-26**]  03:44 PM
                            [**2145-9-26**]  04:07 PM
                            [**2145-9-27**]  04:39 AM
                            [**2145-9-28**]  03:50 AM
                            [**2145-9-28**]  06:00 PM
                            [**2145-9-29**]  03:51 AM
                            [**2145-9-30**]  04:49 AM
   WBC
   7.2
   8.2
   10.4
   7.4
   8.9
   9.8
   11.4
   Hct
   26.6
   27.8
   29.2
   25.9
   26.5
   29.4
   28.9
   Plt
   59
   57
   62
   53
   63
   81
   80
   Cr
   0.8
   0.7
   0.7
   0.6
   0.6
   0.7
   0.6
   0.6
   0.6
   TCO2
   23
   Glucose
   [**Telephone/Fax (3) 8960**]28
   130
   126
   176
   187
   235
   Other labs: PT / PTT / INR:21.0/44.2/2.0, ALT / AST:82/127, Alk Phos /
   T Bili:164/16.8, Amylase / Lipase:71/83, Differential-Neuts:85.0 %,
   Band:0.0 %, Lymph:8.0 %, Mono:3.0 %, Eos:3.0 %, Fibrinogen:254 mg/dL,
   Lactic Acid:1.9 mmol/L, Albumin:2.6 g/dL, LDH:244 IU/L, Ca++:9.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:1.8 mg/dL  Hep A IgM negative.
   CXR [**2145-9-29**]:
   IMPRESSION: New right lower lobe atelectasis. Stable pulmonary vascular
   engorgement.
   RUQ Ultrasound:
   IMPRESSION: Small amount of pericholecystic fluid. Otherwise, no
   significant change since prior studies
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERATION IN NUTRITION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DECUBITUS ULCER (PRESENT AT ADMISSION)
   3 areas stage 2
 DIABETES MELLITUS (DM), TYPE I
 ELECTROLYTE & FLUID DISORDER, OTHER
   55 yo F with h/o diabetes, colon cancer in remission, cryptogenic
   cirrhosis, s/p long hospital course at [**Hospital3 4838**] now
   transferred for evaluation of persistant altered mental status.
   #.  Altered Mental Status: Patient
s mental status was improving but
   appears to have plateaued.  While she is responsive and can perform
   simple commands, she is not interactive.  Likely primarily due to
   hepatic encephalopathy at this point, but unclear why her initial onset
   of encephalopathy would be so refractory.  All other work-up negative
   to date, including negative urine benzos and barbiturates.
   - hepatic encephalopathy: Continue lactulose and rifaximin
   - Given rash on face and positive serum antibody to HSV2, was on
   acyclovir, but has now completed course.
   - possible role of poor nutritional status considering recent lap band,
   though folate and B12 normal, thiamine started
   #. Cirrhosis: Continues to have active liver inflammation and rising
   bilirubin.  Perc chole drain pulled.  Per liver this represents
   progression of underlying cryptogenic cirrhosis due to fatty
   infiltration and chemo effects.  HAV IgM negative.  Family considering
   moving towards hospice care, which they are considering and will talk
   about with us today.
   - Nadalol started
   - Continue lactulose, rifaximin
   - Not a transplant candidate given metastatic colon cancer history w/ <
   5 yrs from colectomy and diagnosis
   #. Oliguria: UOP dropped to 20-30cc/hr with stable creatinine and
   slowly rising BUN.  Did not respond to two boluses of 50mg of albumin.
   Clinically intravascularly dry but want to avoid excessive fluids as
   she has significant peripheral edema and want to avoid pulmonary
   congestion.
   #. RUQ pain: Grimaces with palpation of RUQ at site of previous perc
   chole drain likely due to trauma from pulling drain.  RUQ ultrasound
   did not show any changes.
   .
   #. Respiratory Failure: Now stabilized with trach mask.  Diuresis seems
   to have helped.
   #.  Diabetes: On ISS + lantus: sugars controlled from 100 - 200.
   #. Thrombocytopenia and coagulopathy: both stable, likely due to
   underlying cirrhosis
   - follow platelets daily, transfusion goal < 10
   - follow PT/PTT
   #. Anemia - Hemolysis labs were positive, but her hematocrit has been
   stable.  Haptoglobin level more likely due to decreased liver
   production.
   - Trend hematocrit
   #.  Hypernatremia - from volume resucitation and inability to take po,
   Na stable at 145 for several days with 150ml free water boluses Q6hrs.
   Will continue to monitor.
   #.  Sacral decub ulcers
 has Stage II ulcer on right gluteal. Wound
   consult following.
   #. FEN:  Dobhoff in place, getting TF with free water boluses, can
   replete lytes PRN.
   #. PPX:
   -   DVT ppx with SC Heparin
   -   Bowel regimen Lactulose, Rifaximin
   -   Pain management with Tylenol
   #. ACCESS: Power PICC (placed at OSH) and PIVs
   #. CODE STATUS: Confirmed full
   #. COMMUNICATION: Husband [**Name (NI) **], [**Name (NI) 8807**] [**Name (NI) 2476**], [**Last Name (LF) 4511**], [**First Name3 (LF) 8808**]
   had family meeting yesterday.  They will be in contact with us today.
   #. DISPOSITION: ICU
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2145-9-30**] 05:29 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2145-9-20**] 07:27 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition:ICU